US04761500
In 6 ml of pyridine was dissolved 1.5 g of (-)-2-(p-methoxyphenyl)-1-methylethylamine ([α]D23 : -30.1° (c=1.2, methanol)), and after adding thereto 3 ml of acetic anhydride, the mixture was allowed to stand at room temperature for 1 hour. After distilling off the solvent, the residue was extracted with ethyl acetate. The ethyl acetate extract was washed with water, and dried over anhydrous sodium sulfate, and the solvent was distilled off and the crude crystals formed were recrystallized from a mixture of n-hexane and benzene to provide 1.8 g of (R)(+)-N-acetyl-2-(p-methoxyphenyl)-1-methylethylamine.

reactant | (-)-2-(p-methoxyphenyl)-1-methylethylamine | 1.5 g | COC1=CC=C(C=C1)CC(C)N | C10H15NO
reactant | acetic anhydride | 3 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 6 ml | N1=CC=CC=C1 | C5H5N
product | (R)(+)-N-acetyl-2-(p-methoxyphenyl)-1-methylethylamine | 1.8 g | C(C)(=O)N[C@@H](CC1=CC=C(C=C1)OC)C | C12H17NO2
